US07902356B2
4-(2-Benzyloxy-ethyl)-morpholin-3-one
Add NaH (0.47 g, 11.8 mmol) to a solution of morpholin-3-one (Vieles, P.; Seguin, J., Bulletin de la Societe Chimique de France, 1953, 287-9) (1.0 g, 9.9 mmol) in DMF (10 ml) at room temperature. Stir for 30 min, add (2-bromo-ethoxymethyl)-benzene (2.2 g, 10.2 mmol), and stir at room temperature for 18 h. Dilute with water and extract with EtOAc (2×). Combine the organics, dry, and concentrate. Purify by flash chromatography using 0-5% MeOH in CH2Cl2, to give the product as an oil. (1.7 g, 74%). 1H NMR (400 MHz, CDCl3): δ 7.28 (m, 5H), 4.48 (s, 2H), 4.13 (s, 2H), 3.80 (t, 2H, J=5.1 Hz), 3.65 (m, 2H), 3.59 (dd, 2H, J=7.5, 2.6 Hz), 3.48 (t, 2H, J=5.1 Hz).

reactant | NaH | 11.8 mmol, 0.47 g | [H-].[Na+]
reactant | morpholin-3-one | 9.9 mmol, 1.0 g | N1C(COCC1)=O | C4H7NO2
reactant | (2-bromo-ethoxymethyl)-benzene | 10.2 mmol, 2.2 g | BrCCOCC1=CC=CC=C1 | C9H11BrO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(2-Benzyloxy-ethyl)-morpholin-3-one | C(C1=CC=CC=C1)OCCN1C(COCC1)=O | C13H17NO3
